US05719157
To a suspension of 4-(1-imidazolyl)butyric acid (0.5 g) in tetrahydrofuran (35 ml) was added 1,1'-carbonyldiimidazole (0.578 g) was added, and the mixture was stirred at room temperature for 6 hours. Then malonic acid monoethyl ester magnesium salt (Mg(OCOCH2COOC2 H5)2)(1.02 g) was added, and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residual oil was subjected to column chromatography on silica gel. The fractions eluted with chloroform/methanol (30/1, v/v) gave ethyl 6-(1-imidazolyl)-3-oxohexanoate (0.32 g, 44%) as an oil.

reactant | 4-(1-imidazolyl)butyric acid | 0.5 g | N1(C=NC=C1)CCCC(=O)O | C7H10N2O2
reactant | 1,1'-carbonyldiimidazole | 0.578 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monoethyl ester magnesium salt | 1.02 g | [Mg+2].C(C)OC(CC(=O)[O-])=O.C(CC(=O)[O-])(=O)OCC
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | ethyl 6-(1-imidazolyl)-3-oxohexanoate | 0.32 g, 44% | N1(C=NC=C1)CCCC(CC(=O)OCC)=O | C11H16N2O3
